### PR TITLE
[Merged by Bors] - feat: Port Data.Vector.Zip

### PR DESCRIPTION
**Pull request by zaxioms0**
Nothing complicated, just changing names

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Vector/Zip.lean [hunk 1]
```diff
@@ -0,0 +1,60 @@
...
+section ZipWith
+
+variable {α β γ : Type _} {n : ℕ} (f : α → β → γ)
+
+/-- Apply the function `f : α → β → γ` to each corresponding pair of elements from two vectors. -/
+def zipWith : Vector α n → Vector β n → Vector γ n := fun x y => ⟨List.zipWith f x.1 y.1, by simp⟩
+#align vector.zip_with Vector.zipWith
+
+@[simp]
+theorem zip_with_to_list (x : Vector α n) (y : Vector β n) :
```
Comment (jcommelin) [inline Mathlib/Data/Vector/Zip.lean:30]:
```suggestion
theorem zipWith_toList (x : Vector α n) (y : Vector β n) :
```

File: Mathlib/Data/Vector/Zip.lean [hunk 2]
```diff
@@ -0,0 +1,60 @@
...
+    (Vector.zipWith f x y).toList = List.zipWith f x.toList y.toList :=
+  rfl
+#align vector.zip_with_to_list Vector.zip_with_to_list
+
+@[simp]
+theorem zip_with_nth (x : Vector α n) (y : Vector β n) (i) :
```
Comment (jcommelin) [inline Mathlib/Data/Vector/Zip.lean:36]:
```suggestion
theorem zipWith_get (x : Vector α n) (y : Vector β n) (i) :
```

File: Mathlib/Data/Vector/Zip.lean [hunk 3]
```diff
@@ -0,0 +1,60 @@
...
+    (Vector.zipWith f x y).get i = f (x.get i) (y.get i) := by
+  dsimp only [Vector.zipWith, Vector.get]
+  cases x; cases y
+  simp only [List.nthLe_zipWith]
+#align vector.zip_with_nth Vector.zip_with_nth
+
+@[simp]
+theorem zip_with_tail (x : Vector α n) (y : Vector β n) :
```
Comment (jcommelin) [inline Mathlib/Data/Vector/Zip.lean:44]:
```suggestion
theorem zipWith_tail (x : Vector α n) (y : Vector β n) :
```

File: Mathlib/Data/Vector/Zip.lean [hunk 4]
```diff
@@ -0,0 +1,60 @@
...
+    (Vector.zipWith f x y).tail = Vector.zipWith f x.tail y.tail := by
+  ext
+  simp [get_tail]
+#align vector.zip_with_tail Vector.zip_with_tail
+
+@[to_additive]
+theorem prod_mul_prod_eq_prod_zip_with [CommMonoid α] (x y : Vector α n) :
```
Comment (jcommelin) [inline Mathlib/Data/Vector/Zip.lean:51]:
```suggestion
theorem prod_mul_prod_eq_prod_zipWith [CommMonoid α] (x y : Vector α n) :
```

File: Mathlib/Data/Vector/Zip.lean [hunk 5]
```diff
@@ -0,0 +1,60 @@
...
+section ZipWith
+
+variable {α β γ : Type _} {n : ℕ} (f : α → β → γ)
+
+/-- Apply the function `f : α → β → γ` to each corresponding pair of elements from two vectors. -/
+def zipWith : Vector α n → Vector β n → Vector γ n := fun x y => ⟨List.zipWith f x.1 y.1, by simp⟩
+#align vector.zip_with Vector.zipWith
+
+@[simp]
+theorem zipWith_to_list (x : Vector α n) (y : Vector β n) :
```
Comment (jcommelin) [inline Mathlib/Data/Vector/Zip.lean:30]:
```suggestion
theorem zipWith_toList (x : Vector α n) (y : Vector β n) :
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
